US06248739B1
N-(4-Chlorobenzyl)-6-((4-fluoro-3,6-dihydro-1(2H)-pyridinyl)methyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
To a solution of N-(4-chlorobenzyl)-6-(chloromethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide from Preparation No. 35 (60 mg) in 1-methyl-2-pyrrolidinone (3 mL) is added N,N-diisopropylethylamine (0.075 mL) and 4-fluoro-1,2,3,6-tetrahydropyridine hydrochloride from Preparation No. 38 (119 mg). The reaction mixture is stirred at room temperature overnight and then heated at 60° C. for 4 hrs. The mixture is cooled to room temperature and poured into water to precipitate the product. The crude solid is adsorbed onto silica and purified by chromatography (eluent 100% CH2Cl2 (1 L), 0.25% MeOH in CH2Cl2 (1 L), 0.5% MeOH in CH2Cl2 (1 L), 0.75% MeOH in CH2Cl2 (1 L), 1% MeOH in CH2Cl2 (1 L), 1.25% MeOH in CH2Cl2 (1 L), 1.5% MeOH in CH2Cl2 (2 L)). Fractions homogenous by TLC are combined and concentrated to afford 32.2 mg (46%) of the desired product as a white solid.

reactant | N-(4-chlorobenzyl)-6-(chloromethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CCl)C)C=C1 | C19H16Cl2N2O2
reactant | N,N-diisopropylethylamine | 0.075 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-fluoro-1,2,3,6-tetrahydropyridine hydrochloride | Cl.FC=1CCNCC1
reactant | water | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | N-(4-Chlorobenzyl)-6-((4-fluoro-3,6-dihydro-1(2H)-pyridinyl)methyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 32.2 mg, 46% | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCC(=CC2)F)C)C=C1 | C24H23ClFN3O2
